US07553836B2
Preparation of 2-(4-(2-Hydroxy-2-methylpropoxy)-3-methoxyphenyl)-7-(phenylthio)-3,4-dihydropyrrolo[1,2-a]pyrazin-1(2H)-one
To a −78° C. solution of n-BuLi (1.6 M in hexanes, 77.0 μL, 0.123 mmol) in anhydrous THF (0.153 mL) was added a solution of 7-bromo-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-3,4-dihydropyrrolo[1,2-a]pyrazin-1(2H)-one (50.0 mg, 0.123 mmol), prepared in step A of Example 30, in anhydrous THF (0.153 mL) dropwise over a period of 15 min. The reaction mixture was allowed to stir at −78° C. for 30 min at which point a solution of 1,2-diphenyldisulfane (16.1 mg, 0.073 mmol) in anhydrous THF (77.0 μL) was added dropwise. The reaction mixture was stirred at rt for 16 h, quenched with water (5 mL), extracted with ether (3×15 mL), dried over anhydrous Na2SO4, concentrated under reduced pressure and purified by preparative HPLC: Phenomenex Luna AXIA 5μ C18 21.2×100 mm, 15 min gradient, 10% MeOH/90% H2O/0.1% TFA to 90% MeOH/10% H2O/0.1% TFA, 5 min hold; 20 mL/min, UV detection at 220 nm, 12.716 min retention time to afford 2.2 mg of the title compound as a light yellow solid: 1H NMR (500 MHz, CDCl3) δ 1.34 (s, 6H), 3.83 (s, 2H), 3.85 (s, 3H), 4.08-4.13 (m, 2H), 4.29-4.33 (m, 2H), 6.81 (dd, J=8.8, 2.2 Hz, 1H), 6.93 (d, J=8.8 Hz, 1H), 6.96 (d, J=3.3 Hz, 2H), 7.08-7.14 (m, 2H), 7.17-7.25 (m, 4H); HPLC a) column: Phenomenex Luna 5μ 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% H3PO4 to 90% MeOH/10% H2O/0.1% H3PO4; 1 min hold, 4 mL/min UV detection at 220 nm, 3.283 min retention time, (>95%); HPLC b) column: Phenomenex Luna C18 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% TFA to 90% MeOH/10% H2O/0.1% TFA, 1 min hold; 4 mL/min, UV detection at 220 nm, 3.300 min retention time; MS (ES) 439 [M+H]−.

reactant | n-BuLi | 0.123 mmol, 1.6 M, 77.0 μL | [Li]CCCC
reactant | 7-bromo-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)-3,4-dihydropyrrolo[1,2-a]pyrazin-1(2H)-one | 0.123 mmol, 50.0 mg | BrC=1C=C2N(CCN(C2=O)C2=CC(=C(C=C2)OCC(C)(C)O)OC)C1 | C18H21BrN2O4
reactant | 1,2-diphenyldisulfane | 0.073 mmol, 16.1 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | THF | 0.153 mL | C1CCOC1 | C4H8O
solvent | THF | 0.153 mL | C1CCOC1 | C4H8O
solvent | THF | 77.0 μL | C1CCOC1 | C4H8O
product | 2-(4-(2-Hydroxy-2-methylpropoxy)-3-methoxyphenyl)-7-(phenylthio)-3,4-dihydropyrrolo[1,2-a]pyrazin-1(2H)-one | 2.2 mg | OC(COC1=C(C=C(C=C1)N1C(C=2N(CC1)C=C(C2)SC2=CC=CC=C2)=O)OC)(C)C | C24H26N2O4S
